US06908916B2
C. Preparation of 4-Chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine
A suspension of of 5-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (2.57 gm, 17.2 mmole) in POCl3 (28 mL) was heated at 100° C. for 40 min. The excess reagent was removed under vacuum and the residue was dissolved in DCM (300 mL). This was washed with water, dried (Na2SO4), and the solvent removed. Flash chromatography on silica gel using DCM as eluent afforded the product as a yellow solid (2.38 gm, 82%). 1HNMR (CDCl3): δ 2.63 (s, 3H), 6.74 (d, 1H, J=2 Hz), 7.74 (d, 1H, J=2 Hz), 8.05 (s, 1H).

reactant | 5-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 17.2 mmole, 2.57 gm | CC=1C=CN2N=CNC(C21)=O | C7H7N3O
reactant | POCl3 | 28 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine | 2.38 gm, 82% | ClC1=NC=NN2C1=C(C=C2)C | C7H6ClN3
